US07947676B2
N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-3-[2-(methylamino)ethoxy]-1H-pyrazolo[3,4-d]pyrimidin-4-amine
The procedure described in Example 23 was repeated using 3-(2-chloroethoxy)-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine and methylamine (40% in water) to give the title compound in 10% yield; NMR Spectrum: 2.63 (s, 3H), 3.25 (t, 2H), 4.07 (t, 2H), 5.24 (s, 2H), 7.16 (d, 1H), 7.36 (t, 1H), 7.48 (d, 1H), 7.57 (d, 1H), 7.87 (t, 1H), 7.98 (s, 1H), 8.22 (s, 1H), 8.24 (br s, 1H), 8.58 (d, 1H); Mass Spectrum: 426 (MH+).

reactant | 3-(2-chloroethoxy)-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | ClCCOC1=NNC2=NC=NC(=C21)NC2=CC(=C(C=C2)OCC2=NC=CC=C2)Cl | C19H16Cl2N6O2
reactant | methylamine | CN | CH5N
product | N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-3-[2-(methylamino)ethoxy]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 10% yield | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=C2C(=NC=N1)NN=C2OCCNC | C20H20ClN7O2
